US06166064
5-Nitroisopthaloyl chloride
To a stirred solution of 5-nitroisopthalic acid (10 grams) in methylene chloride (943 mL) was added oxalyl chloride (12.3 mL) and N,N-dimethylformamide (1 drop). The reaction mixture was stirred at room temperature overnight. Removal of the solvent in vacuo afforded 10.63 grams of the title compound. 1H NMR δ 9.17 (s, 2), 9.07 (s, 1).

reactant | 5-nitroisopthalic acid | 10 grams | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | oxalyl chloride | 12.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 943 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 5-Nitroisopthaloyl chloride | 10.63 grams | [N+](=O)([O-])C=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C8H3Cl2NO4
